US04255429
The mixture of 70 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline, 73.2 g of 8-(4-piperidinyl)-8-azaspiro[4,5]decan-7,9-dione, 62.1 g of anhydrous sodium carbonate and 800 ml of dimethylformamide is stirred under nitrogen at 135° for 8 hours. It is allowed to cool to room temperature, filtered and the filtrate evaporated. The residue is poured with stirring and cooling into 300 ml of water, the mixture diluted with 1400 ml of water and filtered. The solids are triturated with 1600 ml of ethyl acetate and 10 ml of saturated aqueous sodium carbonate. The organic layer is separated, dried, evaporated and the residue dissolved in 1,000 ml of ethyl acetate. The solution is acidified with hydrogen chloride, the precipitate filtered off and recrystallized from aqueous methanol, to yield the 8-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-8-azaspiro[4,5]decan-7,9-dione hydrochloride melting at 277°-279° (dec.).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 70 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 8-(4-piperidinyl)-8-azaspiro[4,5]decan-7,9-dione | 73.2 g | N1CCC(CC1)N1C(CC2(CCCC2)CC1=O)=O | C14H22N2O2
reactant | sodium carbonate | 62.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 8-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-8-azaspiro[4,5]decan-7,9-dione hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N1C(CC2(CCCC2)CC1=O)=O | InChI=1S/C24H31N5O4.ClH/c1-32-18-11-16-17(12-19(18)33-2)26-23(27-22(16)25)28-9-5-15(6-10-28)29-20(30)13-24(14-21(29)31)7-3-4-8-24;/h11-12,15H,3-10,13-14H2,1-2H3,(H2,25,26,27);1H
